data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_169078_0,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[N:5][C:4](=[O:6])[H:7])([H:8])([H:9])[H:13]>>[C:1]([C:3]1([C:2]([H:10])([H:11])[H:12])[N:5]=[C:4]([H:7])[O:6]1)([H:8])([H:9])[H:13],33.89817749998585
MR_504495_2,[C@@:1]([C:2](/[N:9]=[C:5](/[C:3]([H:18])([H:19])[H:20])[O:8][H:11])([H:16])[H:17])([N:4]([O:7][H:10])[H:12])([N:6]([H:14])[H:15])[H:13]>>[C@:1]1([N:6]([H:14])[H:15])([H:13])[C:2]([H:16])([H:17])[N:9]1[C@@:5]([C:3]([H:18])([H:19])[H:20])([N:4]([O:7][H:10])[H:12])[O:8][H:11],54.95645000000167
MR_96063_1,[C:1]([C:3]([O:5]/[C:2]([N:4]([H:8])[H:9])=[N:6]\[H:10])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:3](=[O:5])[O:7]/[C:2]([N:4]([H:8])[H:9])=[N:6]\[H:10])([H:11])([H:12])[H:13],29.05325000001924
MR_627309_2,[C@@:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])([N:4]([H:9])[H:10])([N:5][O:6])[H:8]>>[C@:1]1([N:4]([H:9])[H:10])([H:8])[C@@:3]([C:2]([H:11])([H:12])[H:13])([N:5]=[O:6])[O:7]1,43.20337499996285
MR_173711_0,[C:1]([O:4][C:2]([N:3]([H:8])[H:9])=[O:6])([O:5][H:7])([H:10])[H:11]>>[C:1]([O:5][H:7])([O:6][C:2]([N:3]([H:8])[H:9])=[O:4])([H:10])[H:11],46.071677499997605
MR_125032_0,[C:1]([C:4]([N:3]([C:2]([H:12])([H:13])[H:14])[H:7])=[C:6]([H:15])[H:16])([N:5]([H:8])[H:9])([H:10])[H:11]>>[C@:1]1([N:5]([H:8])[H:9])([H:10])[C@:4]([N:3]([C:2]([H:12])([H:13])[H:14])[H:7])([H:11])[C:6]1([H:15])[H:16],72.3457300000068
MR_613253_0,[C:1](/[C:3]([C:6](=[C:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[H:13])=[N:7]/[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:3]1=[C:6]([H:13])[C:2]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[N:7]1[H:12])([H:14])([H:15])[H:16],35.980850000006654
MR_668264_1,[C:1]([N:2]1[C:3]2([H:8])[C:4]([H:9])([C:5]([H:10])=[N:7]2)[O:6]1)([H:11])([H:12])[H:13]>>[C:1]([N:2]1[C:3]([H:8])=[N:7][C:5]([H:10])=[C:4]([H:9])[O:6]1)([H:11])([H:12])[H:13],25.54489749995966
MR_13480_1,[C:1](/[C:5]([N:3](/[C:4]([N:6]([H:10])[H:11])=[N:8]/[H:12])[H:9])=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:5](=[N:3]/[H:9])[C@:7]([C:2]([H:17])([H:18])[H:19])(/[C:4]([N:6]([H:10])[H:11])=[N:8]/[H:12])[H:13])([H:14])([H:15])[H:16],67.61186999997378
MR_566445_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:4]([C:5]([N:7]([H:12])[H:13])=[C:8]([H:20])[H:21])[N:6]([H:10])[H:11])[H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:5](/[N:4]=[N:6]/[H:11])([N:7]([H:12])[H:13])[C:8]([H:10])([H:20])[H:21])[H:9],71.02295999999356
MR_86242_0,[C:1]1([C:5]([H:13])([H:14])[H:18])([C:6]([H:15])([H:16])[H:17])[C:2]([C:3]2([H:11])[C:4]([C:7]([H:19])([H:20])[H:21])([H:12])[O:9]2)([H:10])[O:8]1>>[C:1]1([C:5]([H:13])([H:14])[H:18])([C:6]([H:15])([H:16])[H:17])[C:2]([C:4]([C:3](=[O:9])[H:11])([C:7]([H:19])([H:20])[H:21])[H:12])([H:10])[O:8]1,57.26753249998083
MR_311222_0,[C:1]1([O:8][H:10])([H:12])[C:4]([N:3]([N:6]([H:13])[H:14])[H:11])([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[N:9]1[H:15]>>[C:1]([N:3]([N:6]([H:13])[H:14])[H:11])(/[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])=[N:9]\[H:15])([O:8][H:10])[H:12],59.31255500002536
MR_531078_0,[N:1]([C:2](/[C:3]([N:5]([H:11])[H:12])=[N:6]/[H:13])=[O:7])([N:4]([H:9])[H:10])[H:8]>>[N:1](=[C:2]([C:3](/[N:5]([H:11])[H:12])=[N:6]/[H:13])\[O:7][H:10])\[N:4]([H:8])[H:9],58.59406749998456
MR_147064_2,[C:1]([C:2]([C:3]([C:5]([H:16])([H:17])[H:18])([H:11])[H:12])([N:6]([C:4]([H:13])([H:14])[H:15])[H:9])[H:10])(=[O:7])[H:8]>>[C:1]1([N:6]([C:4]([H:13])([H:14])[H:15])[H:9])([H:8])[C:2]([C:3]([C:5]([H:16])([H:17])[H:18])([H:11])[H:12])([H:10])[O:7]1,69.01621499999507
MR_121604_1,[C@:1]([C:2]([H:13])([H:14])[H:15])(/[C:4]([C:3]([H:16])([H:17])[H:18])=[C:5](\[O:8][H:10])[H:12])([O:6][O:7][H:9])[H:11]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](\[C:3]([H:16])([H:17])[H:18])[C@:5]([O:6][O:7][H:9])([O:8][H:10])[H:12])[H:11],44.77526249998917
MR_420513_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])(/[C:4]([O:6][H:9])=[N:7]/[H:10])[O:5][H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[C:4]([O:5][H:8])([O:6][H:9])[N:7]1[H:10],68.05049249997211
MR_516012_0,[C:1]([C:3](=[C:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])/[N:6]=[N:7]\[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[N:6][N:7]([H:12])[C:2]1([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],45.44417750001245
MR_181323_1,[C:1](\[N:5]([H:9])[H:12])(=[N:7]\[C:3]([C:2]([H:15])([H:16])[H:17])([N:4]([H:10])[H:11])[N:6]([H:13])[H:14])[H:8]>>[C:1]([N:4]([H:10])[H:11])([N:5]([H:9])[H:12])(/[N:7]=[C:3](/[C:2]([H:15])([H:16])[H:17])[N:6]([H:13])[H:14])[H:8],50.15481999999707
MR_602894_2,[C@:1]1([C:2]([H:11])([H:12])[H:13])([C:6]([C:3]([H:14])([H:15])[H:16])[C:7]([C:4]([H:19])([H:20])[H:21])[H:10])[C:5](=[C:8]([H:17])[H:18])[O:9]1>>[C:1]1([C:2]([H:11])([H:12])[H:13])=[C:6]([C:3]([H:14])([H:15])[H:16])[C@@:7]([C:4]([H:19])([H:20])[H:21])([H:10])[C:5](=[C:8]([H:17])[H:18])[O:9]1,58.12218749996319
